US05272163
b. 4-Cyano-3-phenylthiobenzenamine
3-Chloro-4-cyanobenzenamine (20.0 g, 13.1 mmol) was added to a N,N-dimethylformamide (115 mL) solution of thiophenol potassium salt [prepared by adding thiophenol (13.5 mL, 13.1 mmol) to a solution of potassium hydroxide (7.35 g, 13.1 mmol) in methanol followed by removal of the methanol in vacuo] and washed in with an additional 15 ml of N,N-dimethylformamide. After stirring at 140° C. for 16 hours the mixture was poured into water, extracted with ethyl ether (3×150 mL) and the solvent removed in vacuo to yield a red oil. The oil was chromatographed on silica gel using methylene chloride as eluent. The fractions containing product (TLC-silica gel, 2% methanol/chloroform) were combined, the solvent removed and the material rechromatographed using 2:1 methylene chloride/hexane as eluent. The proper fractions were combined, concentrated to a low volume, treated with hexane and cooled (dry ice) and scratched as crystals formed. The white solid weighed 8.29 g (30%); mp 69°--71° C. 1H--NMR (250 MHz, CDCl3): 4.07 (s, 2H, NH2), 6.29 (d,1H, J=2.2 Hz, aromatic), 6.46 (dd 1H, J=2.2 Hz, aromatic), 7.36-7.50 (m, 6H, aromatic). MS (CI, CH4): 227(M+1).

reactant | 3-Chloro-4-cyanobenzenamine | 13.1 mmol, 20.0 g | ClC=1C=C(C=CC1C#N)N | C7H5ClN2
reactant | thiophenol potassium salt | [K].C1(=CC=CC=C1)S
reactant | thiophenol | 13.1 mmol, 13.5 mL | C1(=CC=CC=C1)S | C6H6S
reactant | potassium hydroxide | 13.1 mmol, 7.35 g | [OH-].[K+]
reactant | CH4 | C | CH4
solvent | methanol | CO | CH4O
solvent | N,N-dimethylformamide | 115 mL | CN(C=O)C | C3H7NO
product | 4-Cyano-3-phenylthiobenzenamine | C(#N)C1=C(C=C(C=C1)N)SC1=CC=CC=C1 | C13H10N2S
